US09238660B1
iv) In 1,1,1,3,3,3-hexafluoro-2-propanol HFIP
Diazonium salt 1 (106.8 mg, 0.3359 mmol) was dissolved in HFIP (7.16 g) and the mixture was heated at 60° C. for 4 h. After cooling, Na2CO3 was added and the mixture was filtered. Most of the solvent was evaporated to give a pale-yellow oil, which was purified by SiO2 column chromatography with hexane/CH2Cl2 (9:1) to afford 1-(pentafluorosulfanyl)-4-[2,2,2-trifluoro-1-(trifluoromethyl)ethoxy]benzene (colorless oil; 2.0 mg, 1.6%), 1-fluoro-4-(fluorosulfonyl)benzene (Ferm & VanderWerf, J. Am. Chem. Soc. 1950, 72, 4809-4810) (colorless oil; 7.7 mg, 13%), and 2,2,2-trifluoro-1-(trifluoromethyl)-ethyl 4-fluorophenylsulfonate (Popov, et al., Ukrainskii Khim. Zh. 1991, 57, 843-849) (colorless oil; 15.7 mg, 14.3%). Elution with hexane/CH2Cl2 (8:2) gave 1-(fluorosulfonyl)-4-[2,2,2-trifluoro-1-(trifluoromethyl)ethoxy]benzene (colorless oil, 6.6 mg, 6.0%), a 2:1 mixture of 1-(fluorosulfonyl)-4-[2,2,2-trifluoro-1-(trifluoromethyl) ethoxy]benzene and 2,2,2-trifluoro-1-(trifluoromethyl)ethyl-4-[2,2,2-trifluoro-1-(trifluoromethyl)ethoxy]phenylsulfonate (colorless oil, 27.2 mg, 19.1%), and 4-[2,2,2-trifluoro-1-(trifluoromethyl)ethoxy]phenylsulfonate (colorless oil, 3.8 mg, 2.4%).

reactant | 1-(fluorosulfonyl)-4-[2,2,2-trifluoro-1-(trifluoromethyl) ethoxy]benzene | FS(=O)(=O)C1=CC=C(C=C1)OC(C(F)(F)F)C(F)(F)F | C9H5F7O3S
reactant | 4-[2,2,2-trifluoro-1-(trifluoromethyl)ethoxy]phenylsulfonate | 3.8 mg | FC(C(OC1=CC=C(C=C1)S(=O)(=O)[O-])C(F)(F)F)(F)F
product | 1,1,1,3,3,3-hexafluoro-2-propanol HFIP | FC(C(C(F)(F)F)O)(F)F.C(C(F)(F)F)(C(F)(F)F)O | 2C3H2F6O
